US07393959B2
1-Bromo-3-fluoro-4-iodo benzene (5.0 g, 16.6 mmol), 2-pyridylzinc bromide (7.4 g, 33.2 mmol) were combined in dry THF (100 mL) under argon and Pd(PPh3)4 (1.9 g, 1.6 mmol) was added. The reaction mixture was heated at 70° C. overnight. The reaction mixture was allowed to cool to ambient temperature. TLC analysis showed no starting material present. The reaction mixture was diluted with EtOAc (300 mL), and washed with H2O (3×100 mL), brine (300 mL), dried over Na2SO4, filtered, and concentrated in vacuo to afford a dark oil. The crude product was purified by column chromatography eluting with 1:9 EtOAc:Hexane to afford 2-(4-bromo-2-fluorophenyl)pyridine (2.0 g, 50% yield) as a yellow solid. MS 254.1 (M++H).

reactant | 1-Bromo-3-fluoro-4-iodo benzene | 16.6 mmol, 5.0 g | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | 2-pyridylzinc bromide | 33.2 mmol, 7.4 g | [Br-].N1=C(C=CC=C1)[Zn+]
reactant | Hexane | CCCCCC | C6H14
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 1.6 mmol, 1.9 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-bromo-2-fluorophenyl)pyridine | 2.0 g, 50% yield | BrC1=CC(=C(C=C1)C1=NC=CC=C1)F | C11H7BrFN
